US04886805
60 g of 3-mercapto-1,2,4-triazolo(4,3-a)pyridine are dissolved in 500 ml of ethanol. 21 g of sodium carbonate and 29 ml of 2-bromoethanol are then added. The reaction mixture is heated under reflux for 9 hours, the mineral substances are filtered off, the filtrate is then concentrated in vacuo, the concentrate is taken up with water acidified with 0.5N hydrochloric acid and extraction is carried out with chloroform. The aqueous phase is then rendered basic with aqueous ammonia, saturated with sodium chloride and then extracted with chloroform. The chloroform phase obtained is dried over magnesium sulfate and then concentrated in vacuo. The crystals which then form are taken up with pentane, filtered off, washed with pentane and dried to give 69.2 g of 2-[1,2,4-triazolo(4,3-a)pyridin-3-ylmercapto]ethanol in the form of crystals melting at 84° C.

reactant | 3-mercapto-1,2,4-triazolo(4,3-a)pyridine | 60 g | SC1=NN=C2N1C=CC=C2 | C6H5N3S
reactant | sodium carbonate | 21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromoethanol | 29 ml | BrCCO | C2H5BrO
reactant | pentane | CCCCC | C5H12
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-[1,2,4-triazolo(4,3-a)pyridin-3-ylmercapto]ethanol | 69.2 g | N=1N=C(N2C1C=CC=C2)SCCO | C8H9N3OS
